US07326791B2
3-bromo-N-[(1R)-1-(5-bromo-1H-benzimidazol-2-yl)-2-hydroxyethyl]-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-bromo-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and (1R)-1-(5-bromo-1H-benzimidazol-2-yl)-2-hydroxyethylamine in tetrahydrofuran. Yield: 50%; melting point: 114° C.-116° C.; Rf value: 0.25 (silica gel: dichloromethane/ethanol=95:5); C21H20Br2N4O3 (536.22); mass spectrum: (M+H)+=535/537/539 (bromine isotope).

reactant | 3-bromo-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | BrC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C12H12BrNO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1R)-1-(5-bromo-1H-benzimidazol-2-yl)-2-hydroxyethylamine | BrC1=CC2=C(NC(=N2)[C@H](CO)N)C=C1 | C9H10BrN3O
reactant | bromine | BrBr | Br2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 3-bromo-N-[(1R)-1-(5-bromo-1H-benzimidazol-2-yl)-2-hydroxyethyl]-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 50% | BrC=1C=C(C(=O)N[C@@H](CO)C2=NC3=C(N2)C=CC(=C3)Br)C=CC1C(=O)N1CCCC1 | C21H20Br2N4O3
